US07214673B2
2-Methyl-10-(4-methyl-(S)-3-(2-pyridin-3-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine 2-methyl-10-((S)-3-(2-pyridin-3-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene (728 mg, 1.80 mmol) and formaldehyde (158 μL, 1.98 mmol, 37% in water), and methylene chloride (30 mL). Stir 10 minutes at ambient temperature. Add sodium triacetoxyborohydride (573 mg, 2.70 mmol) and stir 1 hour at ambient temperature. Dilute with saturated sodium bicarbonate solution and extract with methylene chloride. Dry the extracts with sodium sulfate, filter and concentrate the filtrate. Purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (0%–4%) as the eluent to give the title compound (595 mg, 79%): Mass spectrum (ion spray): m/z=418 (M+1), 416 (M−1). Analysis calculated for C24H27N5S: C, 69.03; H, 6.52; N, 16.77. Found: C, 68.92; H, 6.60; N, 16.65.

reactant | 2-methyl-10-((S)-3-(2-pyridin-3-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene | 1.80 mmol, 728 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC=3C=NC=CC3 | C23H25N5S
reactant | formaldehyde | 1.98 mmol, 158 μL | C=O | CH2O
reactant | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
reactant | sodium triacetoxyborohydride | 2.70 mmol, 573 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Methyl-10-(4-methyl-(S)-3-(2-pyridin-3-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene | 595 mg, 79% | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC=3C=NC=CC3 | C24H27N5S
